US06071928
2-Bromo-4-(5-methyl-1H-1,2,4-triazol-1-yl)anisole
Acetamide (6.07 g, 0.103 mol) and dimethylformamide dimethyl acetal (20 ml, 0.15 mol) were stirred at 80° C. in dioxane (20 ml) for 2 hours. The reaction mixture was concentrated in vacuo, ether (50 ml) added, the solution refridgerated for 30 minutes then triturated to give an orange solid. The solid was collected under suction and the fitrate concentrated in vacuo to a red oil (4.63 g). A portion of this oil (1.20 g) was added to a solution of 3-bromo-4-methoxyphenylhydrazine (Desc. 14; 2.12 g, 9.77 mmol) in acetic acid (20 ml) and the mixture stirred at 90° C. for 2 hours. The reaction mixture was concentrated, treated with saturated sodium hydrogen carbonate (150 ml) and extracted with dichloromethane (2×50 ml). The combined extracts were dried (MgSO4), evaporated and the residue purified by flash chromatography, eluting with 1:1 then 3:1 ethyl acetate/hexane then ethyl acetate, to give the title compound (0.33 g, 13%); δH (250MHz, CDCl3) 2.51 (3H, s, 5'--CH3), 3.97 (3H, s, ArOCH3), 7.00 (1H, d J 8.7Hz, 6-H), 7.37 (1H, dd, J8.7, 2.6Hz, 5-H), 7.67 (1H, d, J 2.6Hz, 3-H), 7.92 (1H, s, 3'-H).

reactant | Acetamide | 0.103 mol, 6.07 g | C(C)(=O)N | C2H5NO
reactant | dimethylformamide dimethyl acetal | 0.15 mol, 20 ml | COC(N(C)C)OC | C5H13NO2
reactant | 3-bromo-4-methoxyphenylhydrazine | 9.77 mmol, 2.12 g | BrC=1C=C(C=CC1OC)NN | C7H9BrN2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(5-methyl-1H-1,2,4-triazol-1-yl)anisole | 0.33 g, 13% | BrC1=C(C=CC(=C1)N1N=CN=C1C)OC | C10H10BrN3O
